US03959279
To a mixture of 570 mg. of sodium hydride in 50.0 ml. of dimethylacetamide is added 2.7 g. of 1-(4'-fluorobenzyl)-2-amino-quinazolin-4(1H)-one followed by stirring for one hour at room temperature. There is then added 3.0 g. of methyl iodide and the resulting solution is stirred for 18 hours at room temperature. The resulting mixture is then evaporated in vacuo to remove the solvent and the residue stripped twice with benzene. The resulting residue is poured over ice-water and the precipitate which forms (about 0.5 hour) is washed with water, dried by suction, dissolved in methylene chloride, treated with sodium sulfate, alumina and charcoal and then filtered through Celite. The solvent is exchanged for ether and concentration results in a precipitate which is recovered by filtering, washed with pentane and dried under reduced pressure to obtain 1-(4'-fluorobenzyl)-2-imino-3-methyl-2,3-dihydro-quinazolin-4(1H)-one, m.p. 135°-137°C.

reactant | sodium hydride | [H-].[Na+]
reactant | 1-(4'-fluorobenzyl)-2-amino-quinazolin-4(1H)-one | FC1=CC=C(CN2C(=NC(C3=CC=CC=C23)=O)N)C=C1 | C15H12FN3O
reactant | methyl iodide | CI | CH3I
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
product | 1-(4'-fluorobenzyl)-2-imino-3-methyl-2,3-dihydro-quinazolin-4(1H)-one | FC1=CC=C(CN2C(N(C(C3=CC=CC=C23)=O)C)=N)C=C1 | C16H14FN3O
